US07728030B2
1-Acetyl-5-iodo-6-methylindazole (62d)
Acetic acid anhydride (6.9 mL, 72 mmol) was added to a slurry of 2,5-dimethyl-4-iodoaniline (6.0 g, 24 mmol) and potassium acetate (2.4 g, 24 mmol) in benzene (50 mL). The mixture was heated to 80° C. and isopentylnitrit (4.8 mL, 36 mmol) was added during 20 min. The mixture was stirred at 80° C. overnight, then cooled and filtered. The filtrate was evaporated and purified by column chromatography (SiO2, dichloromethane). Product containing fractions were pooled and concentrated. The subtitle compound (1.5 g, 21%) was obtained as crystals from ethyl acetate.

reactant | Acetic acid anhydride | 72 mmol, 6.9 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2,5-dimethyl-4-iodoaniline | 24 mmol, 6.0 g | CC1=C(N)C=C(C(=C1)I)C | C8H10IN
reactant | potassium acetate | 24 mmol, 2.4 g | C(C)(=O)[O-].[K+]
reactant | isopentylnitrit | 36 mmol, 4.8 mL | C(CC(C)C)ON=O | C5H11NO2
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 1-Acetyl-5-iodo-6-methylindazole | 1.5 g, 21% | C(C)(=O)N1N=CC2=CC(=C(C=C12)C)I | C10H9IN2O
